US05504078
Methyl 6-O-(4-O-acetyl-2,3,6-tri-O-benzyl-α-D-galactopyranosyl)-2,3,4-tri-O-benzyl-α-D-glucopyranoside (2.314 g, 2.46 mmol) is dissolved in hot toluene (20 ml) and methanol (80 ml) is added, followed by a few drops of 1 M methanolic sodium methoxide. The mixture is stirred at room temperature during 2 h. The reaction mixture is made neutral with Amberlite IR 120 (H+) resin, filtered and concentrated under reduced pressure so as to afford methyl 2,3,4-tri-O-benzyl-6-O-(2,3,6-tri-O-benzyl-α-D-galactopyranosyl)-α-D -glucopyranoside as an amorphous solid.

reactant | Methyl 6-O-(4-O-acetyl-2,3,6-tri-O-benzyl-α-D-galactopyranosyl)-2,3,4-tri-O-benzyl-α-D-glucopyranoside | 2.46 mmol, 2.314 g | C(C)(=O)O[C@@H]1[C@@H]([C@H]([C@H](O[C@@H]1COCC1=CC=CC=C1)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](OC)O1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C57H62O12
reactant | methanol | 80 ml | CO | CH4O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | sodium methoxide | 1 M, a few drops | C[O-].[Na+]
product | methyl 2,3,4-tri-O-benzyl-6-O-(2,3,6-tri-O-benzyl-α-D-galactopyranosyl)-α-D -glucopyranoside | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)CO[C@@H]1[C@H](OCC2=CC=CC=C2)[C@@H](OCC2=CC=CC=C2)[C@@H](O)[C@H](O1)COCC1=CC=CC=C1 | C55H60O11
